US08859494B2
Ethyl 3-(4-benzyloxyphenyl)-3-hydroxypropionate
23.8 ml of diisopropylamine were initially charged under argon in 250 ml of THF and cooled to 0° C., and 70 ml of n-butyllithium solution (2.5 M in toluene) were added. The mixture was stirred at 0° C. for 30 minutes, then cooled to −75° C., 16.2 ml of ethyl acetate were added slowly and the mixture was stirred for 30 minutes. Then, at −75° C., 30 g of p-benzyloxybenzaldehyde, dissolved in 250 ml of THF, were added dropwise (internal temp. max. −68° C.; 1 h). The mixture was stirred for a further 20 minutes and then the reaction mixture was quenched with 200 ml of sat. NH4Cl solution and 20 ml of 1 N HCl (internal temp. max. −50° C.). The mixture was allowed to thaw to room temperature, the phases were separated and the organic phase was washed three times with 100 ml each time of sat. NH4Cl solution and once with 100 ml of sat. NaCl solution. The solvent was removed under reduced pressure. The residue was extracted by stirring with n-heptane/2% THF and the precipitated solid was filtered off with suction and dried under reduced pressure at 40° C. This gave 41 g of ethyl 3-(4-benzyloxyphenyl)-3-hydroxypropionate as a colorless solid.

reactant | diisopropylamine | 23.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M, 70 ml | C(CCC)[Li]
reactant | ethyl acetate | 16.2 ml | C(C)(=O)OCC | C4H8O2
reactant | p-benzyloxybenzaldehyde | 30 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(4-benzyloxyphenyl)-3-hydroxypropionate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC(=O)OCC)O | C18H20O4
